US09120823B2
A mixture of 2-(3-ethylsulfanyl-pyridin-2-yl)-6-iodo-3-methyl-3H-imidazo[4,5-b]pyridine (835 mg), sodium pentafluoropropionate (2.0 g), copper iodide (2.0 g), NMP (10 ml) and xylene (50 ml) was stirred while heating to 150° C. for 8 hours. After allowing to cool to room temperature, to the reaction mixture were added 40% aqueous ammonia solution and saturated aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 2-(3-ethylsulfanyl-pyridin-2-yl)-3-methyl-6-pentafluoroethyl-3H-imidazo[4,5-b]pyridine (303 mg), which is hereinafter referred to as “the present compound 6”.

reactant | 2-(3-ethylsulfanyl-pyridin-2-yl)-6-iodo-3-methyl-3H-imidazo[4,5-b]pyridine | 835 mg | C(C)SC=1C(=NC=CC1)C1=NC=2C(=NC=C(C2)I)N1C | C14H13IN4S
reactant | sodium pentafluoropropionate | 2.0 g | FC(C(C(=O)[O-])(F)F)(F)F.[Na+]
reactant | ammonia | N | H3N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | copper iodide | 2.0 g | [Cu](I)I
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
product | 2-(3-ethylsulfanyl-pyridin-2-yl)-3-methyl-6-pentafluoroethyl-3H-imidazo[4,5-b]pyridine | 303 mg | C(C)SC=1C(=NC=CC1)C1=NC=2C(=NC=C(C2)C(C(F)(F)F)(F)F)N1C | C16H13F5N4S
